M18 (VOUT2 net38 net80 VDD) pmos4
M15 (net33 net33 net81 VDD) pmos4
M14 (net28 net33 net57 VDD) pmos4
M13 (net18 net19 net60 VDD) pmos4
M12 (net19 net19 net82 VDD) pmos4
M7 (VOUT1 net38 net83 VDD) pmos4
M6 (net55 net38 net71 VDD) pmos4
M5 (net71 net55 VDD VDD) pmos4
M4 (net46 net55 VDD VDD) pmos4
M3 (net80 net34 VDD VDD) pmos4
M2 (net34 net34 VDD VDD) pmos4
M1 (net17 net17 VDD VDD) pmos4
M0 (net83 net17 VDD VDD) pmos4
R1 (net46 net45) resistor
R0 (net55 net38) resistor
M27 (net78 net18 VSS VSS) nmos4
M26 (net77 net28 VSS VSS) nmos4
M25 (net28 net28 VSS VSS) nmos4
M24 (net18 net18 VSS VSS) nmos4
M23 (net79 net45 VSS VSS) nmos4
M22 (net38 VB1 VSS VSS) nmos4
M21 (net33 VB1 VSS VSS) nmos4
M20 (net19 VB1 VSS VSS) nmos4
M19 (VOUT2 net46 net77 VSS) nmos4
M17 (net45 net46 net79 VSS) nmos4
M16 (VOUT1 net46 net78 VSS) nmos4
M11 (VDD VIN2 net81 VSS) nmos4
M10 (VDD VIN1 net82 VSS) nmos4
M9 (net34 VIN2 net60 VSS) nmos4
M8 (net17 VIN1 net57 VSS) nmos4