M8 (net22 VCLK1 VDD VDD) pmos4
M7 (net29 VCLK1 VDD VDD) pmos4
M2 (VOUT1 VOUT2 net19 VDD) pmos4
M1 (VOUT2 VOUT1 net19 VDD) pmos4
M0 (net19 VCLK2 VDD VDD) pmos4
M11 (net18 VCLK1 VSS VSS) nmos4
M10 (net22 VIN1 net18 VSS) nmos4
M9 (net29 VIN2 net18 VSS) nmos4
M6 (VOUT1 net22 VSS VSS) nmos4
M5 (VOUT1 VOUT2 VSS VSS) nmos4
M4 (VOUT2 VOUT1 VSS VSS) nmos4
M3 (VOUT2 net29 VSS VSS) nmos4