M15 (net36 net36 VDD VDD) pmos4
M8 (net42 IB1 VDD VDD) pmos4
M7 (net43 IB1 VDD VDD) pmos4
M0 (IB1 IB1 VDD VDD) pmos4
M18 (net35 VB1 VSS VSS) nmos4
M17 (VOUT2 net42 net35 VSS) nmos4
M16 (VOUT1 net43 net35 VSS) nmos4
M14 (net27 net12 VSS VSS) nmos4
M13 (net27 net20 VSS VSS) nmos4
M12 (net42 VIN2 net27 VSS) nmos4
M11 (net43 VIN1 net27 VSS) nmos4
M10 (net43 net43 net42 VSS) nmos4
M9 (net42 net42 net43 VSS) nmos4
M6 (net20 net20 VSS VSS) nmos4
M5 (net12 net12 VSS VSS) nmos4
M4 (net49 VDD net20 VSS) nmos4
M3 (net50 VDD net12 VSS) nmos4
M2 (VDD net43 net49 VSS) nmos4
M1 (VDD net42 net50 VSS) nmos4
R1 (net36 VOUT2) resistor
R0 (net36 VOUT1) resistor