M1 (net16 net6 net15 VSS) nmos4
M0 (VOUT1 VB1 net16 VSS) nmos4
L4 (VIN1 net6) inductor
L3 (net12 VSS) inductor
L2 (net15 net12) inductor
L1 (VDD VB1) inductor
L0 (VB1 VOUT1) inductor
C0 (net6 net12) capacitor