M5 (VOUT1 VIN1 net14 VB1) pmos4
M1 (VOUT1 VDD net16 VB1) pmos4
M0 (net16 VB1 VB1 VB1) pmos4
M4 (VDD VB1 net14 VSS) nmos4
M3 (net15 VIN1 VSS VSS) nmos4
M2 (VOUT1 VDD net15 VSS) nmos4