L3 (net22 VSS) inductor
L2 (net11 net10) inductor
L1 (VDD net18) inductor
L0 (VDD net8) inductor
C3 (VDD net22) capacitor
C2 (net10 VSS) capacitor
C1 (net11 net10) capacitor
C0 (net18 net8) capacitor
M3 (IB1 IB1 VSS VSS) nmos4
M2 (net10 IB1 VSS VSS) nmos4
M1 (net18 net8 net11 VSS) nmos4
M0 (net8 net18 net11 VSS) nmos4