M2 (IOUT1 net07 net016 VSS) nmos4
M1 (net016 IOUT1 VSS VSS) nmos4
M4 (net07 net09 net010 VSS) nmos4
M0 (net010 net010 VSS VSS) nmos4
R1 (VDD net09) resistor
R0 (net09 net07) resistor