L3 (net11 net13) inductor
L2 (net11 net15) inductor
L1 (VDD net14) inductor
L0 (VDD net9) inductor
Q1 (net14 net12 net13 0) npn
Q0 (net9 net12 net15 0) npn
C8 (VOUT3 net11) capacitor
C7 (VOUT2 net14) capacitor
C6 (VOUT1 net9) capacitor
C5 (net14 net13) capacitor
C4 (net9 net15) capacitor
C3 (net13 VB3) capacitor
C2 (net15 VB3) capacitor
C1 (VB2 net13) capacitor
C0 (VB2 net15) capacitor
R1 (net11 VSS) resistor
R0 (VB1 net12) resistor