L1 (net15 VDD) inductor
L0 (net12 VDD) inductor
M5 (net21 VB4 IB2 VSS) nmos4
M4 (net15 VB2 net21 VSS) nmos4
M3 (net20 VB3 IB2 VSS) nmos4
M2 (net12 VB1 net20 VSS) nmos4
M1 (net15 net12 IB1 VSS) nmos4
M0 (net12 net15 IB1 VSS) nmos4
C0 (net15 net12) capacitor